US07285572B2
N-(4-iodobenzyl)acetamide
4-Iodobenzylamine (5.32 g) was dissolved in chloroform (50 ml), and, under ice-cooling, pyridine (2.76 ml) and acetic anhydride (2.58 ml) were added and the mixture was stirred for 4 hr. The reaction mixture was washed successively with water, 1N-hydrochloric acid, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:2-1:3) to give the title compound (5.18 g).

reactant | 4-Iodobenzylamine | 5.32 g | IC1=CC=C(CN)C=C1 | C7H8IN
reactant | pyridine | 2.76 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 2.58 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-iodobenzyl)acetamide | 5.18 g | IC1=CC=C(CNC(C)=O)C=C1 | C9H10INO
